US04713393
A flame dried, N2 purged 1-liter, 3-neck round bottom flask equipped with an internal thermometer and mechanical stirrer was charged with 5-benzyloxy-6-(methanesulfonyloxymethyl)-2,3-dihydrobenzofuran (30.60 g, 0.10 moles) and anhydrous acetone (250 ml). The resultant solution was cooled to 0° C. and with efficient stirring sodium iodide (59.90 g, 0.40 moles) in acetone (150 ml) was added in one portion. The reaction mixture was stirred at room temperature for 72 hours and then suction filtered through a bed of celite. The filtrate was concentrated in vacuo to afford the crude product. This was dissolved in ethyl ether (400 ml) and water (200 ml), the layers partitioned, and separated. The organic phase was washed with saturated NaHSO3 solution (2×200 ml) and water (1×200 ml), dried over MgSO4, suction filtered, and the filtrate concentrated in vacuo to yield 5-benzyloxy-6-iodomethyl-2,3-dihydrobenzofuran as a yellow solid (33.0 g, 98%).

reactant | 5-benzyloxy-6-(methanesulfonyloxymethyl)-2,3-dihydrobenzofuran | 0.10 moles, 30.60 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)COS(=O)(=O)C | C17H18O5S
reactant | sodium iodide | 0.40 moles, 59.90 g | [I-].[Na+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | ethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 5-benzyloxy-6-iodomethyl-2,3-dihydrobenzofuran | 33.0 g, 98% | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCO2)C1)CI | C16H15IO2
